US08871766B2
A) tert-butyl 4-(2,4-difluorobenzyl)-4-hydroxypiperidine-1-carboxylate
To a suspension of magnesium (1.2 g) and 1,2-dibromoethane (0.11 mL) in diethyl ether (30 mL) was added a solution of 2,4-difluorobenzyl bromide (10 g) in diethyl ether (10 mL) at room temperature under a nitrogen atmosphere, and the mixture was stirred at the same temperature for 1 hr. The reaction mixture was diluted with THF (30 mL), and cooled to −78° C., and a solution of tert-butyl 4-oxopiperidine-1-carboxylate (5.0 g) in THF (10 mL) was added thereto. The mixture was allowed to warm to room temperature, and stirred overnight. To the reaction mixture was added a small amount of 1N hydrochloric acid at 0° C. to quench the reaction. Saturated aqueous potassium sodium tartrate solution was added thereto, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure. The residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane), and recrystallized from ethyl acetate/hexane to give the title compound (3.9 g).

reactant | magnesium | 1.2 g | [Mg] | Mg
reactant | 1,2-dibromoethane | 0.11 mL | BrCCBr | C2H4Br2
reactant | 2,4-difluorobenzyl bromide | 10 g | FC1=C(CBr)C=CC(=C1)F | C7H5BrF2
reactant | tert-butyl 4-oxopiperidine-1-carboxylate | 5.0 g | O=C1CCN(CC1)C(=O)OC(C)(C)C | C10H17NO3
reactant | hydrochloric acid | 1N | Cl | ClH
reactant | potassium sodium tartrate | C(=O)([O-])C(O)C(O)C(=O)[O-].[Na+].[K+]
solvent | diethyl ether | 30 mL | C(C)OCC | C4H10O
solvent | diethyl ether | 10 mL | C(C)OCC | C4H10O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | tert-butyl 4-(2,4-difluorobenzyl)-4-hydroxypiperidine-1-carboxylate | 3.9 g | FC1=C(CC2(CCN(CC2)C(=O)OC(C)(C)C)O)C=CC(=C1)F | C17H23F2NO3
